US07074800B1
A solution of 6-methoxy-7-((1-methylpiperidin-4-yl)methoxy)-3,4-dihydroquinazolin-4-one (2.8 g, 9.24 mmol) in thionyl chloride (28 ml) containing DMF (2801 μl) was refluxed at 85° C. for 1 hour. After cooling, the volatiles were removed by evaporation. The precipitate was triturated with ether, filtered, washed with ether and dried under vacuum. The solid was dissolved in methylene chloride and saturated aqueous sodium hydrogen carbonate was added. The organic layer was separated, washed with water, brine, dried (MgSO4) and evaporated to give 4-chloro-6-methoxy-7-((1-methylpiperidin-4-yl)methoxy)quinazoline (2.9 g, 98%).

reactant | 6-methoxy-7-((1-methylpiperidin-4-yl)methoxy)-3,4-dihydroquinazolin-4-one | 9.24 mmol, 2.8 g | COC=1C=C2C(NC=NC2=CC1OCC1CCN(CC1)C)=O | C16H21N3O3
reactant | DMF | 2801 μl | CN(C)C=O | C3H7NO
reactant | thionyl chloride | 28 ml | S(=O)(Cl)Cl | Cl2OS
product | 4-chloro-6-methoxy-7-((1-methylpiperidin-4-yl)methoxy)quinazoline | 2.9 g, 98% | ClC1=NC=NC2=CC(=C(C=C12)OC)OCC1CCN(CC1)C | C16H20ClN3O2
